US04000144
A strong stream of dry ammonia is passed (for 15 minutes) into a solution of 16.5 g of 4-[4-(1-adamantyl)-phenoxy]-butyric acid chloride in 150 ml of absolute benzene under anhydrous conditions, whilst stirring. The product formed is now filtered off and washed with ether. Recrystallisation from a large amount of acetone yields pure 4-[4-(1-adamantyl)-phenoxy]-butyric acid amide of melting point 176°-177° C (needles).

reactant | ammonia | N | H3N
reactant | 4-[4-(1-adamantyl)-phenoxy]-butyric acid chloride | 16.5 g | C12(CC3CC(CC(C1)C3)C2)C2=CC=C(OCCCC(=O)Cl)C=C2 | C20H25ClO2
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 4-[4-(1-adamantyl)-phenoxy]-butyric acid amide | C12(CC3CC(CC(C1)C3)C2)C2=CC=C(OCCCC(=O)N)C=C2 | C20H27NO2
